US04267067
Mesityl oxide (441 g) is added at 12°-16° C. to a stirred suspension of aluminum chloride (63 g) in toluene (2100 ml). A solution of isoprene (1224 g) in toluene (1800 ml) is then added over a period of 1.5 hr. at 15°-20° C. After approximately 48 hr. at 15°-25° C., the reaction mixture is washed successively with 10% hydrochloric acid sollution, water, 10% sodium bicarbonate solution, and water. The washed material is distilled rapidly at 3 mm Hg using a short column to give 626 g of crude product. Fractionation of 548 g of this material through a 12"×1", Goodloe packed column gives 478 g of 4-acetyl-1,3,3-trimethyl-1-cyclohexene containing a small amount of 1,8-p-menthadiene. The structure is confirmed by NMR (1H and 13C).

reactant | Mesityl oxide | 441 g | O=C(C)C=C(C)C | C6H10O
reactant | aluminum chloride | 63 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | isoprene | 1224 g | C=CC(C)=C | C5H8
reactant | 1,8-p-menthadiene | C1(=CCC(CC1)C(=C)C)C | C10H16
solvent | toluene | 2100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1800 ml | C1(=CC=CC=C1)C | C7H8
product | 4-acetyl-1,3,3-trimethyl-1-cyclohexene | 478 g | C(C)(=O)C1C(C=C(CC1)C)(C)C | C11H18O
